US06458798B1
N-(2-Amino-5-phenethylpyrimidine-4-yl)-N-pentylamine
A mixture of 4-chloro-5-phenethylpyrimidine-2-ylamine (234 mg, 1 mmol), amylamine (0.58 ml) and dioxane (2 ml) was kept at 95-100° C. for 8.5 hours. The procedure according to pro-treatment of Example 27 was carried out to give the object compound (227 mg, 79.7%).

reactant | 4-chloro-5-phenethylpyrimidine-2-ylamine | 1 mmol, 234 mg | ClC1=NC(=NC=C1CCC1=CC=CC=C1)N | C12H12ClN3
reactant | amylamine | 0.58 ml | C(CCCC)N | C5H13N
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-(2-Amino-5-phenethylpyrimidine-4-yl)-N-pentylamine | 227 mg, 79.7% | NC1=NC=C(C(=N1)NCCCCC)CCC1=CC=CC=C1 | C17H24N4
